US04070466
By substituting 4-hydrazino-1-furfurylpyrazolo-[3,4-b]pyridine-5-carboxylic acid, ethyl ester for the 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester in Example 1 a and proceeding as in parts a and b, 8-furfuryl-2-methyl-4H-pyrazolo[1,5-a]pyrazolo-[4',3':5,6]pyrido[3,4-e]pyrimidin-5(8H)-one is obtained. This compound is now processed as in Example 1, part c, substituting bromobenzene for the methyl iodide. A small amount of copper catalyst is added to obtain 1-furfuryl-2-methyl-4-phenyl-4H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido-[3,4-e]pyrimidin-5(8H)-one.

reactant | 4-hydrazino-1-furfurylpyrazolo-[3,4-b]pyridine-5-carboxylic acid, ethyl ester | N(N)C1=C2C(=NC=C1C(=O)OCC)N(N=C2)CC2=CC=CO2 | C14H15N5O3
reactant | 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | C(C)N1N=CC=2C1=NC=C(C2NN)C(=O)OCC | C11H15N5O2
product | 8-furfuryl-2-methyl-4H-pyrazolo[1,5-a]pyrazolo-[4',3':5,6]pyrido[3,4-e]pyrimidin-5(8H)-one | C(C1=CC=CO1)N1N=CC2=C1N=CC=1C(NC=3N(C12)N=C(C3)C)=O | C16H12N6O2
